US07465726B2
tert-Butyl 4-[4-(benzothiazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxamide
A solution of benzothiazol-5-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine trihydrochloride (23 mg, 0.050 mmol) and N,N-diisopropylethylamine (0.07 mL, 0.402 mmol) in DMF (2 mL) was stirred at rt for 30 min. tert-Butyl isocyanate (0.012 mL, 0.0 mmol) was added dropwise through a syringe. The resulting mixture was stirred for 1.5 h at rt. MeOH (0.5 mL) was added to quench the reaction. The whole mixture was filtered and purified by HPLC to afford the desired product. 1H-NMR (DMSO-d6, 400 MHz): δ=1.28 (s, 9H), 2.48 (m, 2H), 3.53 (m, 2H), 4.01 (m, 2H), 5.79 (s, 1H), 6.43 (s, br, 1H), 6.84 (s, 1H), 7.92 (d, J=8.4 Hz, 1H), 8.08 (d, J=8.8 Hz, 1H), 8.35 (d, J=1.2 Hz, 1H), 8.88 (s, 1H), 9.37 (d, J=1.2 Hz, 1H), 9.56 (s, 1H), 11.99 (s, 1H). MS (ES+): m/z 448.08 [MH+]. HPLC: tR=2.60 min (ZQ2000, polar—5 min).

reactant | benzothiazol-5-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine trihydrochloride | 0.050 mmol, 23 mg | Cl.Cl.Cl.S1C=NC2=C1C=CC(=C2)NC=2C1=C(N=CN2)NC(=C1)C=1CCNCC1
reactant | N,N-diisopropylethylamine | 0.402 mmol, 0.07 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-Butyl isocyanate | 0.0 mmol, 0.012 mL | C(C)(C)(C)N=C=O | C5H9NO
reactant | MeOH | 0.5 mL | CO | CH4O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-[4-(benzothiazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxamide | C(C)(C)(C)C1N(CC=C(C1)C1=CC2=C(N=CN=C2NC=2C=CC3=C(N=CS3)C2)N1)C(=O)N | C23H25N7OS
